US05326900
65.4 g (0.3 mol) of 5,6,7,8-tetrahydro-5,5,8, 8-tetramethyl-2-naphthaldehyde, 56 g (0.38 mol) of ethyl orthoformate and 0.3 g of 4-toluenesulfonic acid in 75 ml of absolute ethanol were stirred at room temperature for 16 h. Then 7.6 g of anhydrous sodium carbonate were added, the mixture was stirred for about 15 min, the solids were filtered off, and the filtrate was concentrated. 92 g of diethyl acetal remained. 73.5 g (0.25 mol) of this diethyl acetal and 42.2 g (0.25 mol) of triethyl phosphite were dissolved in 240 ml of dry methylene chloride and, at -20° C. under nitrogen, 38 g (0.265 mol) of boron trifhoride diethyl etherate were added dropwise. The mixture was allowed to reach room temperature overnight, then 80 ml of water were added, the phases were separated, and the organic phase was dried over sodium sulfate and concentrated. Purification by column chromatography (silica gel; n-heptane/ethyl acetate 1:0→1) resulted in 33.3 g of slightly impure diethyl 1-ethoxy-l-(5,6,7,8-tetrahydro-5,5,8, 8-tetramethyl-2-naphthyl)methylphosphonate as an oil whose structure was confirmed by H and C NMR.

reactant | 5,6,7,8-tetrahydro-5,5,8, 8-tetramethyl-2-naphthaldehyde | 0.3 mol, 65.4 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C=O)C | C15H20O
reactant | ethyl orthoformate | 0.38 mol, 56 g | C(OCC)([O-])[O-]
reactant | 4-toluenesulfonic acid | 0.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium carbonate | 7.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | triethyl phosphite | 0.25 mol, 42.2 g | P(OCC)(OCC)OCC | C6H15O3P
reactant | boron | 0.265 mol, 38 g | [B] | B
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | methylene chloride | 240 ml | C(Cl)Cl | CH2Cl2
solvent | water | 80 ml | O | H2O
product | diethyl 1-ethoxy-l-(5,6,7,8-tetrahydro-5,5,8, 8-tetramethyl-2-naphthyl)methylphosphonate | C(C)OC(C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)P(OCC)(OCC)=O | C21H35O4P
